US08034812B2
Production of N-[6-(3-{[3-(1-cyanocyclopropyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]nicotinamide
To a solution of nicotinic acid (54 mg, 0.438 mmol) in tetrahydrofuran (3 mL) were added N,N-dimethylformamide (1 drop) and oxalyl chloride (64 μL, 0.734 mmol), and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and the residue and N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide (150 mg, 0.365 mmol) were dissolved in N-methylpyrrolidone (3 mL), and the mixture was stirred at room temperature for 14 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80→100/0) to give the title compound (100 mg, 53%) as a pale-green powder.

reactant | nicotinic acid | 0.438 mmol, 54 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | oxalyl chloride | 0.734 mmol, 64 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide | 0.365 mmol, 150 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C2(CC2)C#N)=O)C1 | C23H18N6O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N-methylpyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | N-[6-(3-{[3-(1-cyanocyclopropyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]nicotinamide | 100 mg, 53% | C(#N)C1(CC1)C=1C=C(C(=O)NC=2C=C(OC=3C=CC=4N(N3)C=C(N4)NC(C4=CN=CC=C4)=O)C=CC2)C=CC1 | C29H21N7O3
